US04329347
6-(2-Phenylmercapto-ethoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from thiophenol and 6-(2-chloro-ethoxy)-3,4-dihydro-carbostyril (m.p. 152.5° to 153.5° C.).

reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 6-(2-chloro-ethoxy)-3,4-dihydro-carbostyril | ClCCOC=1C=C2CCC(NC2=CC1)=O | C11H12ClNO2
product | 6-(2-Phenylmercapto-ethoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)SCCOC=1C=C2CCC(NC2=CC1)=O | C17H17NO2S
